US07737138B2
1,9-Diethyl Ethylthioninium chloride
N,N-Diethyl-m-ethyl-p-phenylenediamine dihydrochloride (2 g, 7.5 mmol) was dissolved in water (75 cm3) and the solution adjusted to pH 1.6. The pink solution then had sodium sulphide (>60%) (1.35 g, 10.4 mmol) added portion-wise. To the suspension was added an aqueous solution of iron (III) chloride (4.22 g, 15.6 mmol in 35 cm3 of water) where there was an immediate colour change to purple. The solution was then aerated for 1 hour before a second portion of iron (III) chloride (4.22 g, 15.6 mmol in 35 cm3 of water) solution was added. The solution was cooled to 5° C. before filtering and washing the precipitate with water. The precipitate was also washed with ethanol and the ethanol concentrated to give a sticky purple solid. To the aqueous filtrate was added sodium chloride (50 g) and the solution was stirred for 10 minutes whereby the colour changed to red/purple as the product was salted out. The suspension was filtered and the solid dissolved in dichloromethane (100 cm3) and methanol (10 cm3) before drying over magnesium sulphate. Filtering and concentration with the ethanol soluble product gave the title compound (0.06 g, 3%) as a purple solid. dH (250 MHz; D2O): 6.73 (2H, s, ArH), 6.48 (2H, s, ArH), 3.45 (8H, brdq, NCH2), 2.46 (4H, q, 7.5, CH2), 1.17 (12H, brdt, CH3), 0.93 (6H, t, 7.5, CH3); m/z (ESI) 396.2 (100%, [M-Cl]+). Optionally, flash column chromatography was performed to remove iron chloride residues, with 10% methanol: 90% dichloromethane as eluent and using silica 40-63μ 60?.

reactant | N,N-Diethyl-m-ethyl-p-phenylenediamine dihydrochloride | 7.5 mmol, 2 g | Cl.Cl.C(C)N(C1=CC(=C(C=C1)N)CC)CC
reactant | sodium sulphide | 10.4 mmol, 1.35 g | [S-2].[Na+].[Na+]
reactant | sodium chloride | 50 g | [Cl-].[Na+]
solvent | water | 75 cm3 | O | H2O
catalyst | iron (III) chloride | 15.6 mmol, 35 cm3, 4.22 g | [Fe](Cl)(Cl)Cl
catalyst | iron (III) chloride | 15.6 mmol, 35 cm3, 4.22 g | [Fe](Cl)(Cl)Cl
product | 1,9-Diethyl Ethylthioninium chloride | 0.06 g, 3% | [Cl-].C(C)C(C)C=1[SH+]C(=CC=CC=CC1)CC | InChI=1S/C14H20S.ClH/c1-4-12(3)14-11-9-7-6-8-10-13(5-2)15-14;/h6-12H,4-5H2,1-3H3;1H
